US07714130B2
N-(2-bromophenyl)4-tert-butylbenzamide
2-Bromoaniline (98%, Oakwood 005347, 214 g, 1.25 mol), NaHCO3 (270 g, 3.2 mol), THF (500 mL) and water (500 mL) were placed into a 5-L round-bottom flask equipped with an overhead stirrer, thermometer and a 500-mL addition funnel. Solution of t-butyl benzoyl chloride (>98%, Fluka 19660, 250 mL, 1.37 mol) in 250 mL of THF was placed into the addition funnel and was added slowly (in 25 min) to the stirred mixture of reagents in the flask. (No external heating or cooling was administered, slight exotherm was observed raising the temperature inside the flask to 35° C.).

reactant | 2-Bromoaniline | 1.25 mol, 214 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | NaHCO3 | 3.2 mol, 270 g | C(=O)(O)[O-].[Na+]
reactant | water | 500 mL | O | H2O
reactant | t-butyl benzoyl chloride | 1.37 mol, 250 mL | C(C)(C)(C)C1=C(C(=O)Cl)C=CC=C1 | C11H13ClO
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | N-(2-bromophenyl)4-tert-butylbenzamide | BrC1=C(C=CC=C1)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C17H18BrNO
